US04680301
A mixture of 3.5 g of 2-tert.-butyl-5-chloro-6-nitrobenzothiazole, described in Example 5, and 5.8 g of N-carbethoxypiperazine is heated at 180° for 2 hours, cooled and poured into water. The solid is filtered, washed with water and crystallised from isopropyl alcohol to give 2-tert-butyl-5-[4-carbethoxypiperazin-1-yl]-6-nitrobenzothiazole, melting at 100°-102°.

reactant | 2-tert.-butyl-5-chloro-6-nitrobenzothiazole | 3.5 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])Cl | C11H11ClN2O2S
reactant | N-carbethoxypiperazine | 5.8 g | C(=O)(OCC)N1CCNCC1 | C7H14N2O2
solvent | water | O | H2O
product | 2-tert-butyl-5-[4-carbethoxypiperazin-1-yl]-6-nitrobenzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N2CCN(CC2)C(=O)OCC | C18H24N4O4S
